US05719193
Step A: 1,18-Bis[[(phenyl)methyl]carbonyl]-5,14-bis-[(phenyl)methyl]-1,5,14,18-tetraazaoctadecane
Chill a solution of 5,14-bis[(phenyl)methyl]-1,5,14,18-tetraazaoctadecane (2.2 g, 5 mmole) and triethylamine (2 g, 20 mmole) in chloroform (100 ml) in an ice bath. Add a solution of phenylacetyl chloride (2.3 g, 15 mmole) in chloroform (10 ml) dropwise. Remove the ice bath and stir the mixture at ambient temperature for 18 hours. Extract the reaction mixture with aqueous sodium bicarbonate, dry the organic layer and evaporate. Chromatograph the residue on a flash silica gel column (ethyl acetate) to give 3 g of the desired product as a thick oil.

reactant | 5,14-bis[(phenyl)methyl]-1,5,14,18-tetraazaoctadecane | 5 mmole, 2.2 g | C1(=CC=CC=C1)CN(CCCN)CCCCCCCCN(CCCN)CC1=CC=CC=C1 | C28H46N4
reactant | triethylamine | 20 mmole, 2 g | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 15 mmole, 2.3 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,18-Bis[[(phenyl)methyl]carbonyl]-5,14-bis-[(phenyl)methyl]-1,5,14,18-tetraazaoctadecane | 3 g | C1(=CC=CC=C1)CC(=O)NCCCN(CCCCCCCCN(CCCNC(=O)CC1=CC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C44H58N4O2
